US07262023B2
A 2 l Erlenmeyer flask that contained 1000 ml of a nutrient solution, sterilized for 30 minutes at 121° C. in an autoclave and consisting of 3% by weight of glucose, 1% by weight of corn steep liquor, 0.2% by weight of NaNO3, 0.1% by weight of KH2PO4, 0.2% by weight of K2HPO4, 0.05% by weight of KCl, 0.05% by weight of MgSO47H2O, and 0.002% by weight of FeSO47H2O (pH 6,0), was inoculated with a slant rod culture of the strain Glomerella cingulata (IFO 6425) and shaken for 72 hours at 28° C. in a rotary shaker at 165 rpm. With this preculture, a 20 l fermenter was inoculated, and said fermenter was coated with 19 l of a sterile medium of the same final composition as described for the preculture. In addition, before the sterilization, another 1.0 ml of silicone oil and 1.0 ml of synperonic were added for foam abatement. After a growth phase of 12 hours at 0.7 bar of overpressure, a temperature of 28° C., an aeration of 10 l/minute and a stirring speed of 350 rpm, a solution of 2.0 g of 17β-hydroxy-7α-methylestr-4-en-3-one in 30 ml DMF was added. Stirring was continued, and it was aerated. After 19 hours, the culture broth was harvested and extracted for 16 hours with 20 l of methyl isobutyl ketone and for 23 hours with 20 l of methyl isobutyl ketone. The combined organic phases were evaporated to the dry state. The residue was dissolved to a large extent in methanol. The silicone oil was filtered off. It was concentrated by evaporation, and after chromatography on silica gel with a gradient that consists of dichloromethane and acetone, 1.55 g (73%) of 11α, 17β-dihydroxy-7α-methylestr-4-en-3-one was isolated. After recrystallization from acetone/diisopropyl ether, 827 mg (39%) of white crystals with a melting point of 163° C. and [α]D=−16° (CHCl3, c=0.501) was isolated.

reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | KH2PO4 | OP(=O)(O)[O-].[K+]
reactant | K2HPO4 | OP(=O)([O-])[O-].[K+].[K+]
reactant | KCl | [Cl-].[K+]
reactant | 17β-hydroxy-7α-methylestr-4-en-3-one | 2.0 g | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](CC3=CC(CC[C@@H]3[C@H]1CC2)=O)C | C19H28O2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 11α, 17β-dihydroxy-7α-methylestr-4-en-3-one | 1.55 g, 73% | O[C@H]1[C@@H]2[C@H]3CCC(C=C3C[C@H]([C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)C)=O | C19H28O3
